US09056876B2
d. PREPARATION OF TERT-BUTYL 3-AMINO-6,8-DIMETHYL-1H-PYRAZOLO[3′,4′:4,5]THIENO[2,3-B]PYRIDINE-1-CARBOXYLATE
The 6,8-dimethyl-1H-pyrazolo[3′,4′:4,5]thieno[2,3-b]pyridin-3-amine (1.0 g, 4.58 mmol) was stirred in DMF (12 mL) with TEA (0.82 mL, 5.73 mmol) and DMAP (30 mg, 0.23 mmol) until dissolved. The clear solution was then cooled to 0° C. and (Boc)2O (1.26 mL, 5.50 mmol) was added. The reaction was stirred 15 min, then the ice-bath was removed and the reaction stirred for about 18 hrs resulting in a tan slurry. LC/MS indicates the reaction is done. The reaction was poured into 120 mL of ice. The ice was allowed to melt, and resulting slurry was poured through filter paper, washing the solid with cold water (3×). The solid was then dried under vacuum at 60° C. to give 1.3 g (89%) of the product as a dark tan solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 7.10 (s, 1H), 6.86 (s, 2H), 2.65 (s, 3H), 2.50 (s, 3H), 1.60 (s, 9H). LC/MS: RT=0.69 min., m/z=319.0 [M+H]+.

reactant | 6,8-dimethyl-1H-pyrazolo[3′,4′:4,5]thieno[2,3-b]pyridin-3-amine | 4.58 mmol, 1.0 g | CC1=CC(=C2C(=N1)SC1=C2NN=C1N)C | C10H10N4S
reactant | (Boc)2O | 5.50 mmol, 1.26 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.23 mmol, 30 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | TERT-BUTYL 3-AMINO-6,8-DIMETHYL-1H-PYRAZOLO[3′,4′:4,5]THIENO[2,3-B]PYRIDINE-1-CARBOXYLATE | 1.3 g, 89% | NC1=NN(C2=C1SC1=NC(=CC(=C12)C)C)C(=O)OC(C)(C)C | C15H18N4O2S
